US04687768
Using the same procedure as in Example VII, tetraisopropyl methane diphosphonate is converted to tetraisopropyl dihydro-2-pyrindine-6,6-diphosphonate by reaction with 3,4-bis(chloromethyl)pyridine. The resulting ester is hydrolyzed as in Example VII to yield the dihydro-2-pyrindine-6,6-diphosphonic acid.

reactant | tetraisopropyl methane diphosphonate | P(=O)(O)OP(=O)O.C(C)(C)C(C(C)C)(C(C)C)C(C)C
reactant | tetraisopropyl dihydro-2-pyrindine-6,6-diphosphonate | C1NC=CC2=CC(C=C12)(P(OC(C)C)(=O)OC(C)C)P(OC(C)C)(=O)OC(C)C | C20H35NO6P2
reactant | 3,4-bis(chloromethyl)pyridine | ClCC=1C=NC=CC1CCl | C7H7Cl2N
product | dihydro-2-pyrindine-6,6-diphosphonic acid | C1NC=CC2=CC(C=C12)(P(O)(=O)O)P(O)(=O)O | C8H11NO6P2
